TPS709 nominal series-input feasibility screen
.include model.lib
* 8V = 9V battery minus assumed 1V diode drop; not diode model.
VIN source 0 PWL(0 0 1m 0 1.1m 8 100m 8)
RIN source in 1000
RBLEED in 0 100k
CIN in 0 2.3u
XU in 0 en out nc TPS70933_TRANS
COUT out 0 5.4u
RLOAD out 0 2251
.options method=gear maxord=2
.control
tran 10u 100m
wrdata waveform.txt v(in) v(out) i(VIN)
quit
.endc
.end
